US07511055B2
(4-Methyl-thiazol-2-yl)-[1,7]naphthyridin-8-yl-amine
The title compound, MS: m/e=243.3 (M+H+), was prepared in accordance with the general method of example 1 from 8-chloro-[1,7]naphthyridine and 2-amino-4-methylthiazole.

reactant | 8-chloro-[1,7]naphthyridine | ClC=1N=CC=C2C=CC=NC12 | C8H5ClN2
reactant | 2-amino-4-methylthiazole | NC=1SC=C(N1)C | C4H6N2S
product | (4-Methyl-thiazol-2-yl)-[1,7]naphthyridin-8-yl-amine | CC=1N=C(SC1)NC=1N=CC=C2C=CC=NC12 | C12H10N4S
